US05025031
Sulfamic acid 3-phenoxybutyl ester
The title compound was prepared by procedures of Example 16 from sulfamoyl chloride and 3-phenoxy-1-butanol. The viscous oil obtained was purified by high pressure chromatography using a Waters Associates Prep LC/System 500A; PrepPAK 500® silica and methylene chloride as eluting agent at a flow rate of 200 ml/min. Fractions containing the title compound were combined and the solvent was evaporated under reduced pressure to give 12.7 g (67%) of title compound as a yellow, viscous oil.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 3-phenoxy-1-butanol | O(C1=CC=CC=C1)C(CCO)C | C10H14O2
product | Sulfamic acid 3-phenoxybutyl ester | 12.7 g, 67% | O(C1=CC=CC=C1)C(CCOS(N)(=O)=O)C | C10H15NO4S
